US08058274B2
3-Bromo-5-methyl-imidazo[1,2-a]pyridine-2-carboxylic acid ethyl ester (compound o, 0.6 g, 0.002 mol), potassium carbonate (0.6 g, 0.004 mol), triphenylphosphine (0.06 g, 0.0002 mol), 3-(trifluoromethyl)phenylboronic acid (0.4 g, 0.002 mol) and bis(acetato) bis(triphenylphosphine)palladium (II) (0.08 g, 0.0001 mol) were mixed in a microwave vial. The mixture was purged with argon. Isopropyl alcohol (20 mL) and water (3 mL) was added. The mixture was heated (120° C.) by microwaved for 25 minutes. The solvent removed then water (10 mL) and ethyl acetate (10 mL) was added. The layers were separated and the organic layer dried (magnesium sulfate) then removed. The crude product was chromatographed using 50% ethyl acetate/hexanes to give 350 mg of 5-methyl-3-(3-trifluoromethyl-phenyl)-imidazo[1,2-a]pyridine-2-carboxylic acid ethyl ester as a white solid. Rf 0.42, 50% ethyl acetate/hexanes; MS m/z 349 (M+H).

reactant | 3-Bromo-5-methyl-imidazo[1,2-a]pyridine-2-carboxylic acid ethyl ester | 0.002 mol, 0.6 g | C(C)OC(=O)C=1N=C2N(C(=CC=C2)C)C1Br | C11H11BrN2O2
reactant | potassium carbonate | 0.004 mol, 0.6 g | C([O-])([O-])=O.[K+].[K+]
reactant | triphenylphosphine | 0.0002 mol, 0.06 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 3-(trifluoromethyl)phenylboronic acid | 0.002 mol, 0.4 g | FC(C=1C=C(C=CC1)B(O)O)(F)F | C7H6BF3O2
catalyst | bis(acetato) bis(triphenylphosphine)palladium (II) | 0.0001 mol, 0.08 g | CC(=O)[O-].CC(=O)[O-].C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.[Pd+2]
product | 5-methyl-3-(3-trifluoromethyl-phenyl)-imidazo[1,2-a]pyridine-2-carboxylic acid ethyl ester | 350 mg | C(C)OC(=O)C=1N=C2N(C(=CC=C2)C)C1C1=CC(=CC=C1)C(F)(F)F | C18H15F3N2O2
